US04363805
Preparation analogously to Example 38 by the reaction of sodium phenolate with 1,8-dibromooctane to give 8-phenoxy-1-bromooctane (b.p.11 =196°-202°; yield 75%) which is reacted with excess 5-amino-5-desoxy-1.4;3.6-dianhydro-L-iditol 2-nitrate. Isolation is hydrochloride. Yield, after recrystallisation from ethanol/isopropanol: 62%.

reactant | sodium phenolate | C1(=CC=CC=C1)[O-].[Na+]
reactant | 1,8-dibromooctane | BrCCCCCCCCBr | C8H16Br2
product | 8-phenoxy-1-bromooctane | yield 75% | O(C1=CC=CC=C1)CCCCCCCCBr | C14H21BrO
